US04160021
A mixture of 3.5 g. (0.01 mol) of 1-nitro-3,5-bis-ethoxyoxamoylbenzene (prepared from 3,5-diaminonitrobenzene by reaction with ethoxyoxalyl chloride in pyridine) in 100 ml. of methanol was hydrogenated over 200 mg. of 10% palladium-on-carbon at 50 psi. Reduction was complete in 16 hours. To the mixture was added tetrahydrofuran (about 100 ml.) to dissolve the precipitate, the catalyst was filtered and to the filtrate containing 3,5-bis-ethoxyoxamoylaniline was added 2.12 g. (0.01 mol) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one. This mixture was heated under reflux while 100 ml. of volatile solvent was collected by distillation. Heating was stopped, 50 ml. of methanol was added and the product collected by filtration, giving 5-acetyl-3-[3,5-bis-ethoxyoxamoylphenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 195° C.

reactant | methanol | CO | CH4O
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | 0.01 mol | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | tetrahydrofuran | about 100 ml | O1CCCC1 | C4H8O
product | 4-hydroxy-2H-pyran-2,6(3H)-dione | OC=1CC(OC(C1)=O)=O | C5H4O4
